US07179912B2
A solution of 2-(tert-butyl-dimethyl-silanyloxy)-5-Nitro-benzoic acid methyl ester (4.9 g, 16 mmol) in ethanol (100 mL) was treated with hydrogen gas (60 psi) for 48 h in the presence of palladium on carbon catalyst (0.31 g, 10% Pd). The catalyst was removed by filtration through CELITE®, and the filtrate was concentrated to a syrup and dried in vacuo to afford the intermediate 5-amino-2-(tert-butyl-dimethyl-silanyloxy)-benzoic acid methyl ester as a dark brown solid (4.52 g, 99%).

reactant | 2-(tert-butyl-dimethyl-silanyloxy)-5-Nitro-benzoic acid methyl ester | 16 mmol, 4.9 g | COC(C1=C(C=CC(=C1)[N+](=O)[O-])O[Si](C)(C)C(C)(C)C)=O | C14H21NO5Si
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.31 g | [Pd] | Pd
product | 5-amino-2-(tert-butyl-dimethyl-silanyloxy)-benzoic acid methyl ester | 4.52 g, 99% | COC(C1=C(C=CC(=C1)N)O[Si](C)(C)C(C)(C)C)=O | C14H23NO3Si
